* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP162-4.2.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 5
C1 OUT 0 1µ
Rload OUT 0 420
V2 N001 0 PULSE(0 5 100u 50n 50n 2.5m)
X§U1 IN 0 N001 OUT ADP16xf K=238.1u
.tran 4m
.lib ADP16x.lib
.backanno
.end
